US05283251
To a solution of benzyl 4-[1-(3-nitrobenzenesulfonyl)indol-3-yl]butyrate (1.95 g) in 1,4-dioxane (15 ml) was added 1N-sodium hydroxide (8 ml). The mixture was stirred for 2 hours and poured into diluted hydrochloric acid. The organic layer was extracted with ethyl acetate (30 ml) and washed with water (30 ml×3). The solution was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was crystallized with diisopropyl ether to give a yellow solid of 4-[1-[3-nitrobenzenesulfonyl)indol-3-yl]butyric acid (1.45 g).

reactant | benzyl 4-[1-(3-nitrobenzenesulfonyl)indol-3-yl]butyrate | 1.95 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N1C=C(C2=CC=CC=C12)CCCC(=O)OCC1=CC=CC=C1 | C25H22N2O6S
reactant | sodium hydroxide | 8 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 4-[1-[3-nitrobenzenesulfonyl)indol-3-yl]butyric acid | 1.45 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N1C=C(C2=CC=CC=C12)CCCC(=O)O | C18H16N2O6S
